US07595325B2
N-[6-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-pyridin-2-yl]-2-fluoro-benzenesulfonamide
2-Fluoro-benzenesulfonyl chloride (72 mg, 0.37 mmol) was added to a solution of (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(6-amino-pyridin-2-yl)-methanone (100 mg 0.34 mmol) in pyridine (2 mL). The resulting solution was heated to 40° C. in a sealed tube for 12 h. The reaction mixture was concentrated in vacuo and the residue was triturated with MeOH and filtered to provide a crude yellow solid. Purification by flash column chromatography (hexanes/ethyl acetate 5:5-1:9) afforded the title compound as a yellow solid (60 mg, 40%). MS: 455.1 (MH+); HPLC Rf: 4.67 min. (HPLC method 4); HPLC purity: 100%.

reactant | 2-Fluoro-benzenesulfonyl chloride | 0.37 mmol, 72 mg | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(6-amino-pyridin-2-yl)-methanone | 0.34 mmol, 100 mg | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=NC(=CC=C2)N)C(C)C | C15H16N6O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-[6-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-pyridin-2-yl]-2-fluoro-benzenesulfonamide | 60 mg, 40% | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC=CC(=N2)NS(=O)(=O)C2=C(C=CC=C2)F)C(C)C | C21H19FN6O3S
